US08426411B2
CO was bubbled into an orange solution of 2-bromo-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (50.0 g, 142 mmol) in DMF (2.50 L) within a 5 L round bottom flask for about 2 min. Bis(triphenylphosphine)-palladium(II) dichloride (9.96 g, 14.2 mmol), TEA (59 mL, 423 mmol) and MeOH (173.0 mL, 4259 mmol) were added and the flask was fitted with a balloon of CO. The mixture was heated at about 95° C. under an atmosphere of CO (1 atmosphere). After stirring overnight, the reaction mixture was cooled to ambient temperature overnight and poured into ice water (3.2 L). The mixture was stirred for about 10 min and the precipitate was collected by filtration, while washing with water, and dried for 1 h. The crude material was dissolved in DCM, separated from residual water, dried over anhydrous MgSO4, filtered, added silica gel, and concd under reduced pressure to prepare for chromatography. The crude material was purified by silica gel column chromatography eluting with 0-5% MeOH in DCM to yield methyl 5-tosyl-5H-pyrrolo[2,3-b]pyrazine-2-carboxylate with 5 mol % DCM as an excipient (40.7 g, 86%, 93% purity): LC/MS (Table 1, Method a) Rt=2.35 min; MS m/z 332 (M+H)+.

reactant | 2-bromo-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 142 mmol, 50.0 g | BrC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C13H10BrN3O2S
reactant | MeOH | 4259 mmol, 173.0 mL | CO | CH4O
reactant | DMF | 2.50 L | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine)-palladium(II) dichloride | 14.2 mmol, 9.96 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 5-tosyl-5H-pyrrolo[2,3-b]pyrazine-2-carboxylate | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)C(=O)OC | C15H13N3O4S
